US05591862
To a mixture of ethyl 4-[2-[2-(2-chlorophenyl)-5-methyl-4-oxazolyl]ethoxy]-α-cyanocinnamate (2.25 g) and dioxane (30 ml)--ethanol (30 ml) was added sodium borohydride (0.06 g) under ice-cooling. The mixture was stirred for one hour at the same temperature. The reaction mixture was poured into ice-water, which was made acid and subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), then the solvent was distilled off under reduced pressure. The residue was subjected to a silica gel column chromatography. From the fractions eluted with chloroform-methanol (50:1, v/v), was obtained ethyl 3-[4-[2-[2-(2-chlorophenyl)-5-methyl-4-oxazolyl]ethoxy]phenyl]-2-cyanopropionate (2.25 g, quant.) as an oily product. NMR(δ ppm in CDCl3): 1.27(3H,t,J=7Hz), 2.39(3H,s), 3.00(2H,t,J=6.5Hz), 3.12(1H,dd,J=14&8Hz), 3.22(1H,dd,J=14&6Hz), 3.66(1H,dd,J=8&6Hz), 4.22(2H,q,J=7Hz), 4.24(2H,t,J=6.5Hz), 6.87(2H,d,J=9Hz), 7.17(2H,d,J=9Hz), 7.25-7.5(3H,m), 7.85-8.0(1H,m).

reactant | ethyl 4-[2-[2-(2-chlorophenyl)-5-methyl-4-oxazolyl]ethoxy]-α-cyanocinnamate | 2.25 g | ClC1=C(C=CC=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C(C(=O)OCC)C#N)C=C1)C | C24H21ClN2O4
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
reactant | sodium borohydride | 0.06 g | [BH4-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 3-[4-[2-[2-(2-chlorophenyl)-5-methyl-4-oxazolyl]ethoxy]phenyl]-2-cyanopropionate | 2.25 g | ClC1=C(C=CC=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)OCC)C#N)C | C24H23ClN2O4
